US08258130B2
4-Methyl-[2,2]bipyrimidinyl-5-carboxylic acid (0.5 g, 2.31 mmol) is combined with 5-fluoro-3-methyl-indol-1-yl-ammonium chloride (464 mg, 2.31 mmol), N-methylmorpholine (233 mg, 2.31 mmol) and DMF (10 mL). The suspension is stirred for 5 minutes at rt, then 4-(4,6-dimethoxy-[1,3,5]triazin-2-yl)-4-methyl-morpholin-4-ium chloride is added (640 mg, 2.31 mmol). The reaction is heated to 50° C. for 4 h. The reaction is then poured into water (50 mL), the suspension is chilled for 2 h in the refrigerator, and then filtered. The solids are then suspended in acetonitrile at 50° C. for 4 h, cooled, then filtered to afford 4-methyl-[2,2′]bipyrimidinyl-5-carboxylic acid (5-fluoro-3-methyl-indol-1-yl)-amide (60%). MS: 363 (M+H); 1H NMR (300 MHz, CDCl3): δ=2.27 (s, 3H), 2.77 (s, 3H), 7.07 (dt, 1H), 7.36 (dd, 1H), 7.38 (s, 1H), 7.44-7.48 (m, 1H), 7.70 (t, 1H), 9.05 (d, 2H), 9.29 (s, 1H), 11.9 (s, 1H). IC50=4.5 nM.

reactant | 4-Methyl-[2,2]bipyrimidinyl-5-carboxylic acid | 2.31 mmol, 0.5 g | CC1=NC(=NC=C1C(=O)O)C1=NC=CC=N1 | C10H8N4O2
reactant | 5-fluoro-3-methyl-indol-1-yl-ammonium chloride | 2.31 mmol, 464 mg | [Cl-].FC=1C=C2C(=CN(C2=CC1)[NH3+])C
reactant | N-methylmorpholine | 2.31 mmol, 233 mg | CN1CCOCC1 | C5H11NO
reactant | 4-(4,6-dimethoxy-[1,3,5]triazin-2-yl)-4-methyl-morpholin-4-ium chloride | [Cl-].COC1=NC(=NC(=N1)OC)[N+]1(CCOCC1)C
solvent | water | 50 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-methyl-[2,2′]bipyrimidinyl-5-carboxylic acid (5-fluoro-3-methyl-indol-1-yl)-amide | 60% | FC=1C=C2C(=CN(C2=CC1)NC(=O)C=1C(=NC(=NC1)C1=NC=CC=N1)C)C | C19H15FN6O
